US06995144B2
1-(tert-Butoxycarbonyl)-4-[2-(3-methylureido)phenoxymethyl]piperidine
After dissolving 400 mg of 1-(tert-butoxycarbonyl)-4-(2-aminophenoxymethyl)piperidine in 10 ml of tetrahydrofuran, 458 mg of methyl isocyanate was added and the mixture was stirred overnight at room temperature. Ammonia water was added to the reaction solution and extraction was performed with ethyl acetate. The organic layer was washed with water and saturated brine and dried over anhydrous magnesium sulfate, and then filtered with NH silica gel. The solvent was distilled off under reduced pressure to obtain the title compound (469 mg, 99% yield).

reactant | 1-(tert-butoxycarbonyl)-4-(2-aminophenoxymethyl)piperidine | 400 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)COC1=C(C=CC=C1)N | C17H26N2O3
reactant | methyl isocyanate | 458 mg | CN=C=O | C2H3NO
reactant | Ammonia water | O.N
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 1-(tert-Butoxycarbonyl)-4-[2-(3-methylureido)phenoxymethyl]piperidine | 469 mg, 99% yield | C(C)(C)(C)OC(=O)N1CCC(CC1)COC1=C(C=CC=C1)NC(=O)NC | C19H29N3O4
